US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.379 g, 0.619 mmol) and pyrrolidine (1.0 mL, 12 mmol) in THF (80 mL) was stirred at 70° C. in a sealed tube for 3 hours. The reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with water and brine. It was dried with anhydrous magnesium sulfate, filtered and concentrated. Drying at 80° C. in vacuo for 25 minutes gave 1-benzyl-3-(naphthalene-1-sulfonyl)-5-(2-pyrrolidin-1-yl-ethoxy) -1H-indazole as a yellow-orange solid (0.259 g, 82.0% mmol). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried for 13 hours in vacuo at 81° C. The result was the hydrochloride as a buff foam (0.267 g); Mass Spectrum (+EI, [M+H]+) m/z 512.

reactant | toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.619 mmol, 0.379 g | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C33H28N2O6S2
reactant | pyrrolidine | 12 mmol, 1.0 mL | N1CCCC1 | C4H9N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-(naphthalene-1-sulfonyl)-5-(2-pyrrolidin-1-yl-ethoxy) -1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OCCN1CCCC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H29N3O3S
